US07226918B2
[4-(6-Morpholine-4-yl-4-oxo-4H-pyran-2yl)-phenyl]carbamic acid tert-butyl ester (402 mg, 1.08 mmol) was dissolved in 25% trifluoroacetic acid in dichloromethane mixture (5 ml) and stirred for 1 hour at room temperature. The reaction was concentrated in vacuo, precipitated with saturated NaHCO3, filtered, washed with diethyl ether and dried to yield (4-amino-phenyl)-6-morpholin-4-yl-pyran-4-one as a yellow solid (230 mg, 79%). m/z (LC-MS, ESP): 273 (M++1).

reactant | [4-(6-Morpholine-4-yl-4-oxo-4H-pyran-2yl)-phenyl]carbamic acid tert-butyl ester | 1.08 mmol, 402 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=1OC(=CC(C1)=O)N1CCOCC1)=O | C20H24N2O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4-amino-phenyl)-6-morpholin-4-yl-pyran-4-one | 230 mg, 79% | NC1=CC=C(C=C1)C=1OC(=CC(C1)=O)N1CCOCC1 | C15H16N2O3
